Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Adhesive / Tegaderm / morphine
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ stage IIIB  EGFR positive non-small cell lung cancer, 
status post definitive chemoradiation, now with recurrent 
disease in
mediastinal lymph nodes, mets to the lung and malignant pleural 
effusion s/p pleurodesis as well as likely metastatic disease to 
bone currently on oral chemo daily, HLD, HTN, hypothyroidism who 
presents with chest pain and difficulty breathing 1 day s/p vein 
stripping. She had prior b/l vein stripping, including ligation 
and stripping of the GSV, and sclerotherapy. She then developed 
secondary varicosities most bothersome in the inguinal area. She 
underwent left leg vein
stripping (via 24 incisions) with Dr ___ on ___ and the
operation went well. She now returns to the ED with dyspnea and
chest pain described as burning x1 day. When she awoke day of 
admission, she felt lightheaded, as though she would faint. She 
also feels short of breath and had chest pain that was worse on 
deep inspiration. 
 
In the ED, initial vitals were: 99.1 117 136/81 18 94% RA  
Patient endorsed dyspnea with exertion, requiring 3L O2 in the 
ED to maintain saturations, and she was tachycardic.

Labs: Trop 0.06  
Imaging: CTA with multiple PEs in right upper, middle and lower 
lobes.  
Consults: Vascular, Cardiology  
Patient was given: Heparin bolus + drip; dilaudid 0.5; Zofran 4 
mg; 2L nS;

Vitals on transfer were: 99.3 ___ 18 98% RA  

Decision was made to admit to CCU after patient's blood 
pressures softened s/p pain medication administration. BP was 
fluid responsive. Pt stable on transfer and admitted to CCU for 
close vital sign monitoring and possible catheter directed 
thrombolysis. 

 
Past Medical History:
Shortness of breath with right pleural effusion.
Stage IIIB  EGFR positive non-small cell lung cancer, status 
post definitive chemoradiation now with recurrent metastatic 
disease
Hypertension
Hypothyroidism
Hyperlipidemia
Osteoporosis
Varicose Veins
 
Social History:
___
Family History:
Her father was diagnosed with lung cancer at the
age of ___ and died at the age of ___, and he was a smoker.  Prior
to that he was diagnosed with prostate cancer.  Her brother was
also a smoker and was diagnosed with lung cancer at the age of
___.  However, he was never treated for the lung cancer since
prior to the diagnosis since he had a stroke and he likely died
of starvation.  Her maternal aunt had a lung tumor; however, she
never had appropriate workup and diagnosis since that was more
than ___ years ago and probably not in this country.  The patient
lives with her husband and the rest of her family, daughter and
___ are around and in fact she takes care of her
grandchildren and was very active until ___ of diagnosis.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  98.2  106  ___  95% 3L NC 
General Appearance: NAD, resting comfortably
HEENT: MMM, O/P clear, sclera anicteric
Neck: trachea midline, no stridor, supple
Lymphatics: no cervical or supraclavicular lymphadenopathy, no
thyromegaly
Chest: good air entry, mild rales at left base 
Cardiovascular: reg rate, nl S1/S2, no MRG
Abdomen: soft, NT/ND, NABS, no HSM
Extremities: no CCE
Neurological: A&O x3, gait WNL
Psychiatric: normal mood, no depression/anxiety
Skin: No rash, skin eruptions, or erythema

DISCHARGE PHYSICAL:
Vitals-  Tm 98.9| 121/85 (121-156/73-93)| 94 (85-99)| 20| 96% on 
RA
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi, decreased breath sounds at bases. Shallow breathing. 
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, no clubbing, cyanosis or edema
Neuro- Alert and oriented, motor function grossly normal, gait 
WNL  
 
Pertinent Results:
ADMISSION LABS
___ 03:30PM BLOOD WBC-9.3 RBC-4.55 Hgb-12.5 Hct-37.7 MCV-83 
MCH-27.5 MCHC-33.2 RDW-13.7 RDWSD-41.1 Plt ___
___ 03:30PM BLOOD Neuts-71.3* ___ Monos-8.5 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-6.65*# AbsLymp-1.78 
AbsMono-0.79 AbsEos-0.04 AbsBaso-0.04
___ 03:30PM BLOOD ___ PTT-29.2 ___
___ 03:30PM BLOOD Glucose-99 UreaN-10 Creat-0.6 Na-137 
K-3.7 Cl-102 HCO3-24 AnGap-15
___ 03:30PM BLOOD cTropnT-0.06*
___ 03:38PM BLOOD Lactate-1.5
___ 02:00AM BLOOD CK-MB-3 cTropnT-0.02*
___ 06:20AM BLOOD CK-MB-3 cTropnT-<0.01 proBNP-1709*

DISCHARGE LABS:
___ 07:05AM BLOOD WBC-4.6 RBC-3.98 Hgb-11.0* Hct-32.9* 
MCV-83 MCH-27.6 MCHC-33.4 RDW-13.2 RDWSD-39.9 Plt ___
___ 07:05AM BLOOD Glucose-93 UreaN-11 Creat-0.6 Na-139 
K-4.3 Cl-104 HCO3-28 AnGap-11
___ 07:05AM BLOOD ALT-120* AST-107* AlkPhos-121* 
TotBili-0.5
___ 07:05AM BLOOD Calcium-9.3 Phos-3.4 Mg-2.2

Imaging:
___ CTA Chest:
1.  Multiple pulmonary emboli in the right upper, right middle, 
and right 
lower lobes. 
2.  Increase in size of irregular infiltrating left hilar mass 
since ___. 
3.  Stable loculated left pleural effusion at the apex. 
4.  Increase in size of several right pulmonary nodules, as 
described above. Attention on follow-up is recommended. 

___ TTE:
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and global 
systolic function (LVEF = 70%). The right ventricular cavity is 
moderately dilated with moderate global free wall hypokinesis. 
There is abnormal septal motion/position consistent with right 
ventricular pressure/volume overload. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. The pulmonary artery systolic 
pressure could not be determined. There is a small pericardial 
effusion. No tamponade.

IMPRESSION: Mild symmetric left ventricular hypertrophy and 
normal left ventricular systolic function. Moderate right 
ventricular dilation and moderate systolic dysfunction. Septal 
motion suggests RV pressure/volume overload.

___ LENIs:  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

___ DUPLEX ABD/PELVIS
1.  No US evidence of portal vein thrombus.
2.  1.3 cm simple cyst in the lower pole of the left kidney, not 
significantly
changed compared to the prior CT from ___.
3.  No focal hepatic lesions identified.
 
Brief Hospital Course:
___ w/ stage IIIB EGFR positive non-small cell lung cancer, 
status post definitive chemoradiation, now with recurrent 
disease in mediastinal lymph nodes, mets to the lung and 
malignant pleural effusion s/p pleurodesis as well as likely 
metastatic disease to bone currently on oral chemo daily, HLD, 
HTN, hypothyroidism who presents with chest pain and difficulty 
breathing, found to have submassive pulmonary emboli.

#) SUBMASSIVE PULMONARY EMBOLISM: Patient with NSCLC diagnosed 
___, s/p chemoradiation for definitive treatment, and 
recurrence with erlotinib treatment for ___ years, presented to 
the ED with pleuritic chest pain, SOB and tachycardia. CTA 
revealed multiple right sided PEs and patient was started on 
heparin drip after bolus. Pt was initially hemodynamically 
stable in the ED, but after systolics dropped to ___ in the ED, 
it was decided to admit the patient to the CCU. Her pressures 
stabilized in the ___ after 2L NS in the ED. TTE showed RV 
strain, BNP and troponins both mildly elevated. On the day after 
admission, she was transitioned from a heparin drip to 
subcutaneous lovenox. Given her active malignancy, she should 
continue of LMWH longterm. She was transferred to a medicine 
floor and weaned off oxygen. 

#)Transaminitis: Rising ALT and AST. ___ be some component of 
congestive hepatopathy. Possible drug effect but no new 
medications and not taking consistent Tylenol. RUQ US w/ Doppler 
was obtained which did not show PVT or other major 
abnormalities.

#)Stage IIIb NSCLC: continued home. erlotinib 50 mg daily

#Hypertension: held lisinopril in setting of PEs with 
hypotension at first but was able to restart as blood pressures 
stabilized with systolic in the 140s-150s.

#Hyperlipidemia: withheld non-formulary WelChol 625 mg 3 tablets 
daily

#Hypothyroidism: continued levothyroxine 137 mcg daily

#GERD: continued home ranitidine, omeprazole 

Transitional Issues:
-Please follow LFTs and ensure they are downtrending or worked 
up further for possible liver metastasis. On discharge AST 107, 
ALT 120, T.Bili 0.5, Alk Phos 121.
-Will get outpatient LFTs faxed to PCP ___ ___
-Will likely need indefinite anticoagulation given unprovoked PE 
in patient with malignancy. # CODE: Full confirmed 
# CONTACT: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Denosumab (Prolia) 60 mg SC Q6MONTHS 
2. Erlotinib 50 mg PO DAILY 
3. WelChol (colesevelam) 1875 mg oral DAILY 
4. Levothyroxine Sodium 137 mcg PO DAILY 
5. Lisinopril 10 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Paroxetine 10 mg PO DAILY 
8. Ranitidine 150 mg PO DAILY 
9. TraMADOL (Ultram) 50-100 mg PO Q4H:PRN pain 
10. Cyanocobalamin 1000 mcg PO DAILY 
11. Centrum Silver Women (multivit-min-iron-FA-lutein) 8 mg 
iron-400 mcg-300 mcg oral DAILY 

 
Discharge Medications:
1. Cyanocobalamin 1000 mcg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Paroxetine 10 mg PO DAILY 
5. Ranitidine 150 mg PO DAILY 
6. TraMADOL (Ultram) 50-100 mg PO Q4H:PRN pain 
7. Enoxaparin Sodium 70 mg SC Q12H 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC every 12 hours Disp #*60 
Syringe Refills:*0
8. Levothyroxine Sodium 137 mcg PO DAILY 
9. Erlotinib 50 mg PO DAILY 
10. Denosumab (Prolia) 60 mg SC Q6MONTHS 
11. Centrum Silver Women (multivit-min-iron-FA-lutein) 8 mg 
iron-400 mcg-300 mcg oral DAILY 
12. WelChol (colesevelam) 1875 mg ORAL DAILY 
13. Outpatient Lab Work
Please get labs drawn on ___
AST, ALT, T. Bili, Alk Phos
Fax to: ___ MD 
Fax: ___ 
ICD 10: R74.0, C34.90

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Massive Pulmonary Emboli

Secondary:
Stage 4 ___
HTN
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,
You were admitted to ___ on ___ after being short of 
breath. We found that you had pulmonary emboli (blood clots in 
your lungs). This caused your blood pressure to be low at first 
so you were sent to the cardiac ICU, and then transferred to the 
medicine floor for monitoring. We started you on blood thinners 
to help keep you from getting more clots and to keep the clots 
you already have from getting bigger. During your admission some 
abnormal liver function tests were noticed. You got an 
ultrasound which was unremarkable. It was a pleasure taking part 
in your care. Please get your liver labs checked on ___. 
Please attend all of your follow up appointments and take all of 
your medications as prescribed.
Sincerely,
Your ___ Care Team  
 
Followup Instructions:
___